US09102692B2
N-Benzhydrylidene-N′-(3,5-di-tert-butyl-phenyl)-hydrazine (617 mg, 1.6 mmol) was dissolved in ethanol (12 ml). Then, ethyl pyruvate (212 μl, 1.9 mmol) and p-toluene sulfonic acid monohydrate (914 mg, 4.8 mmol) were added thereto. This was heated and stirred at 150° C. by microwave under a nitrogen atmosphere for one hour. After cooling it to room temperature, the reaction mixture was combined with water and an aqueous solution saturated with sodium bicarbonate. The product was extracted into ethyl acetate. The organic layer was isolated, and washed with an aqueous solution saturated with sodium chloride, and dried over magnesium sulfate. The desiccant was removed by filtration, and concentration was performed. Then, the residue obtained by concentration under reduced pressure was purified by silica gel column chromatography (hexane/ethyl acetate=100/5). Thus, 4,6-di-tert-butyl-1H-indole-2-carboxylic acid ethyl ester was obtained as a brown solid (268 mg, 56%).

reactant | N-Benzhydrylidene-N′-(3,5-di-tert-butyl-phenyl)-hydrazine | 1.6 mmol, 617 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NNC1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | C27H32N2
reactant | ethyl pyruvate | 1.9 mmol, 212 μl | C(C(=O)C)(=O)OCC | C5H8O3
reactant | p-toluene sulfonic acid monohydrate | 4.8 mmol, 914 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 12 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 4,6-di-tert-butyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC(=CC(=C2C1)C(C)(C)C)C(C)(C)C | C19H27NO2
